Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
dysarthria
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ right handed woman with past 
medical
history of hypertension, recent ischemic stroke with resolved
right-sided weakness and mild dysarthria who presents for
evaluation of gait instability, dysarthria, and abnormal CT 
head.

History provided by patient her daughters and her granddaughter. 

Patient notes that she has been in her usual state of health she
was feeling well over the last several days,, at her baseline is
able to ambulate independently and has no remaining right-sided
weakness.  She went to meet her granddaughter this morning at 11
AM and her granddaughter noted that she was more dysarthric than
usual, and unsteady on her feet.  The patient and her
granddaughter deny any focal weakness at this time.  She was not
aphasic nor having word finding difficulties.

She is initially seen at ___, where she had a
head CT that was notable for a right frontal hyperdensity on CT
head.  She was sent to ___ for further evaluation of this
abnormality.  Per report from ED doctor at ___, this
abnormality may have been seen on CT head done in ___ for
patient's infarct,, however we are unable to to get these images
in the ED at ___ was also unable to obtain a copy of
these.

At the time of my evaluation her family states that she is still
slightly off from baseline in terms of her dysarthia but
otherwise her usual self. 

ROS negative except as mentioned in HPI

 
Past Medical History:
Left internal capsule ischemic infarct following discontinuation
of aspirin
Hypertension
IBS 
Osteopenia 
GERD 

 
Social History:
___
Family History:
FAMILY HISTORY:
===============
No hx of strokes or other neurologic disorders 
 
Physical Exam:
PHYSICAL EXAMINATION
====================
Vitals: 97.7 88 145/87
100% RA
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity,
but decreased ROM of neck. 
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech mildly dysarthic.  Able to 
follow
both midline and appendicular command. There was no evidence of
apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  R. pupil 2.5->2,L. 3->2 and brisk. EOMI 
without
nystagmus. Mild ptosis of left eye which pt states is old. 
Normal
saccades. VFF to confrontation. palate w/ slight leftward
deviation 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk. No pronator drift, but cupping of left 
hand.
tone sl inc in b/l ___.  
No adventitious movements, such as tremor, noted. No asterixis
noted.Rapid movements slower on left hand 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5-   5   4+  ___  ___    5  5     5     5   
R  5    ___   ___- 5   5    5  5     5     5   
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   1
R  2  3    3    3   1
Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem with some difficulty. Romberg
absent though sways slightly. 

DISCHARGE EXAM
================
PHYSICAL EXAMINATION
====================
Vitals: 97.7 88 145/87
100% RA
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity,
but decreased ROM of neck. 
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech mildly dysarthic.  Able to 
follow
both midline and appendicular command. There was no evidence of
apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  R. pupil 2.5->2,L. 3->2 and brisk. EOMI 
without
nystagmus. Mild ptosis of left eye which pt states is old. 
Normal
saccades. VFF to confrontation. palate w/ slight leftward
deviation 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk. No pronator drift, but cupping of left 
hand.
tone sl inc in b/l ___.  
No adventitious movements, such as tremor, noted. No asterixis
noted.Rapid movements slower on left hand 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5-   5   4+  ___  ___    5  5     5     5   
R  5    ___   ___- 5   5    5  5     5     5   
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   1
R  2  3    3    3   1
Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem with some difficulty. Romberg
absent though sways slightly. 

 
Pertinent Results:
Admission Labs
=================

___ 04:21PM BLOOD WBC-6.3 RBC-4.20 Hgb-13.3 Hct-40.7 MCV-97 
MCH-31.7 MCHC-32.7 RDW-12.8 RDWSD-45.4 Plt ___
___ 04:21PM BLOOD Neuts-62.8 ___ Monos-6.8 Eos-2.2 
Baso-1.1* Im ___ AbsNeut-3.97 AbsLymp-1.68 AbsMono-0.43 
AbsEos-0.14 AbsBaso-0.07
___ 04:21PM BLOOD ___ PTT-29.2 ___
___ 04:21PM BLOOD Plt ___
___ 04:21PM BLOOD Glucose-108* UreaN-11 Creat-0.7 Na-145 
K-4.4 Cl-106 HCO3-24 AnGap-15
___ 08:20AM BLOOD ALT-16 AST-22 CK(CPK)-76 AlkPhos-65 
TotBili-0.6
___ 04:21PM BLOOD Cholest-129
___ 08:20AM BLOOD Calcium-9.4 Phos-3.6 Mg-2.4 Cholest-132
___ 04:21PM BLOOD %HbA1c-5.5 eAG-111
___ 04:21PM BLOOD Triglyc-61 HDL-63 CHOL/HD-2.0 LDLcalc-54
___ 08:20AM BLOOD Triglyc-75 HDL-62 CHOL/HD-2.1 LDLcalc-55
___ 04:21PM BLOOD TSH-1.8
___ 08:20AM BLOOD TSH-2.6

PERTINENT LABS
----------------

___ 04:21PM BLOOD Triglyc-61 HDL-63 CHOL/HD-2.0 LDLcalc-54
___ 04:21PM BLOOD %HbA1c-5.5 eAG-111
___ 04:21PM BLOOD TSH-1.8

IMAGING
==========
MR HEAD W & W/O CONTRAST Study Date of ___ 8:39 ___ 
1. Extensive areas of T2/FLAIR high-signal intensity identified 
in the 
subcortical and periventricular white matter, which are 
nonspecific and may 
reflect changes due to chronic small vessel disease. 
2. Chronic lacunar infarcts identified in the pons and basal 
ganglia. 
3. Right frontal and smaller left cerebellar cavernomas, with no 
evidence of 
significant mass effect or vasogenic edema. 
4. No acute intracranial abnormality.  There is no evidence of 
acute 
intracranial process. 

Radiology Report CTA HEAD AND CTA NECK Study Date of ___ 
9:46 ___ 

IMPRESSION: 
  
  
1. Right frontal hyperdensity with small foci of calcification 
with no 
surrounding vasogenic edema; appearance could represent 
cavernous 
malformation. 
2. Background of severe chronic microangiopathy with multiple 
bilateral 
lacunar infarcts. 
3. Background of moderate atherosclerotic disease affecting 
intracranial 
circulation with patent circle of ___ without evidence of 
severe 
stenosis,occlusion,or aneurysm. 
4. Severe stenosis at origin of left vertebral artery caused by 
calcified 
atherosclerotic plaque.  The left vertebral artery arises 
directly from the 
aorta. 

 
Brief Hospital Course:
This is a ___ year old right-handed woman with history of left 
internal capsule and pons who presented with transient 
dysarthria, found to have possible hemorrhage on OSH CT, 
transferred to ___ for further care. On presentation, she had 
subtle dysarthria which is at her baseline. There was no concern 
for subclinical seizures or seizures prior to or on 
presentation. On presentation exam, she felt at her baseline. 
Her exam was notable for subtle UMN pattern of weakness in her 
left upper extremity. She also has increased cervicogenic tone. 
Her NCHCT on admission was consistent with cavernoma with 
possible new hemorrhage. She was admitted for MRI and further 
characterization given absence of OSH imaging for comparison. 
MRI demonstrated subacute hemorrhage within her right frontal 
cavernoma. Her neurological exam remained stable. Etiology of 
hemorrhage into malformation likely natural course and it 
remains unclear if it is related to her presentation or it is an 
incidental finding. (The patient notes that she felt slightly 
off but was mostly just tired and perhaps this resulted in 
stroke recrudescence rather than clinical manifestation of 
rebleed into her cavernoma.) As she was at her baseline, we 
discharged her without change in her medications (including 
aspirin 81 mg) and with plan to follow-up with repeat MRI brain 
without contrast in 3 months and with Dr. ___ ___ 
___ in 3 months. She also is scheduled to follow-up with 
neurosurgery in the outpatient setting. 

Transitional Issues:
- No driving for one week, caution with driving long distances 
(avoid driving alone if possible)
- F/U with neurosurgery in ___ weeks, call to schedule 
appointment as above
- MRI brain in 3 months at ___
- F/U with ___ neurology in 3 months

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO Frequency is Unknown 
2. amLODIPine 5 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Omeprazole 20 mg PO DAILY 
5. Trulance (plecanatide) 2 mg oral ASDIR 
6. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO ASDIR  
2.  amLODIPine 5 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  Omeprazole 20 mg PO DAILY  
5.  Trulance (plecanatide) 2 mg oral ASDIR  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cavernous Malformation, stroke recrudescence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for evaluation of a brief 
episode of difficulty speaking, which was concerning for a new 
stroke. Your episode resolved in a few minutes and you felt much 
better on arrival to the hospital. Your imaging showed no signs 
of new stroke. 

However, we did find that you have a small brain vessel anomaly 
(CAVERNOUS MALFORMATION, right frontal lobe). It appears that 
this malformation - or cluster of atypical vessels - may have 
bled a small amount in the days leading up to your presentation 
to the hospital. For this reason, we would like to continue to 
monitor this malformation in the next few months.

We recommend that you follow-up with neurosurgery vascular 
specialty to monitor the malformation. We also recommend that 
you follow-up with neurology at ___ to facilitate continuity 
of care.

With small amounts of blood in the brain, you are at risk of 
seizure. For this reason we recommend that you refrain from 
driving for at least 7 days from the hospitalization. We 
recommend that you try to avoid long drives. For the next weeks 
until your follow-up, we recommend the following precautions:

Avoid bathing/swimming alone
Avoid climbing
Avoid using sharp moving objects
Avoid unsupervised exposure to heat sources (open fires, stoves)
Wear protective gear for sports
Avoid being alone in locked setting
Avoid situations where altered consciousness could prove to be
dangerous

We made no changes to medications.

Please continue aspirin and follow-up as scheduled below, as 
well as with your PCP.

Thank you for allowing us to participate in your care. 

___ Neurology

 
Followup Instructions:
___